US08044060B2
3-Hydrazino-4-methylpyridine
2.55 ml of a 2.5 M aqueous sodium nitrite solution are added to a solution of 4.0 g (37 mmol) of 3-amino-4-methylpyridine in 19 ml of 6 N hydrochloric acid while cooling in an ice/salt bath. The resulting diazonium salt solution is slowly added dropwise at −10° C. to −15° C. to a solution of 21 g (111 mmol) of tin(II) chloride in 26 ml of hydrochloric acid. The solution is left to stand in a refrigerator overnight in order to complete the reaction. The precipitated solid is filtered off with suction, suspended in 26 ml of water, made basic with concentrated sodium hydroxide solution and filtered. The filtrate is extracted ten times with 20 ml of dichloromethane each time, and the combined organic phases are dried over sodium sulphate and concentrated. Drying under high vacuum results in 1.45 g (31% of theory) of the desired product as a colourless oil.

reactant | sodium nitrite | 2.5 M | N(=O)[O-].[Na+]
reactant | 3-amino-4-methylpyridine | 37 mmol, 4.0 g | NC=1C=NC=CC1C | C6H8N2
reactant | tin(II) chloride | 111 mmol, 21 g | [Sn](Cl)Cl
solvent | hydrochloric acid | 6 N, 19 ml | Cl | ClH
solvent | hydrochloric acid | 26 ml | Cl | ClH
product | 3-Hydrazino-4-methylpyridine | N(N)C=1C=NC=CC1C | C6H9N3
